US04873231
"Antibicarbonate" action of Aspirin
In Examples 4 through 8 above, freeze-dried Calcium Aspirin was substituted for sodium or potassium benzoate with comparable results.

reactant | Calcium Aspirin | CC(=O)OC1=CC=CC=C1C(=O)[O-].CC(=O)OC1=CC=CC=C1C(=O)[O-].[Ca+2]
reactant | sodium | [Na] | Na
reactant | potassium benzoate | C(C1=CC=CC=C1)(=O)[O-].[K+]
product | Aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
